US06265411B1
7-(3-Morpholinopropoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one (680 mg, 1.6 mmol) was stirred in methanolic ammonia (20 ml) at 40° C. for 6 hours then for 18 hours at ambient temperature. The solvent was removed by evaporation, the residue was triturated with ether/isohexane and collected by filtration to give 7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one (450 mg, 92%) as a white solid.

reactant | 7-(3-Morpholinopropoxy)-3-((pivaloyloxy)methyl)-3,4-dihydroquinazolin-4-one | 1.6 mmol, 680 mg | O1CCN(CC1)CCCOC1=CC=C2C(N(C=NC2=C1)COC(C(C)(C)C)=O)=O | C21H29N3O5
solvent | ammonia | 20 ml | N | H3N
product | 7-(3-morpholinopropoxy)-3,4-dihydroquinazolin-4-one | 450 mg, 92% | O1CCN(CC1)CCCOC1=CC=C2C(NC=NC2=C1)=O | C15H19N3O3
